US05578607
6-(2-Imidazolinylamino)-4,5,8-trimethylquinoline (0.406 g) is dissolved in a solution of concentrated hydrochloric acid (0.813 mL) in methanol (4 mL). To this solution is added ether (7 mL). The solution is allowed to stand at room temperature for 3 days, and the resulting crystals are filtered and washed with ether to provide 6-(2-imidazolinylamino)-4,5,8-trimethylquinoline dihydrochloride monohydrate.

reactant | 6-(2-Imidazolinylamino)-4,5,8-trimethylquinoline | 0.406 g | N1(C=NCC1)NC=1C(=C2C(=CC=NC2=C(C1)C)C)C | C15H18N4
reactant | ether | 7 mL | CCOCC | C4H10O
reactant | hydrochloric acid | 0.813 mL | Cl | ClH
solvent | methanol | 4 mL | CO | CH4O
product | 6-(2-imidazolinylamino)-4,5,8-trimethylquinoline dihydrochloride monohydrate | O.Cl.Cl.N1(C=NCC1)NC=1C(=C2C(=CC=NC2=C(C1)C)C)C | InChI=1S/C15H18N4.2ClH.H2O/c1-10-4-5-17-15-11(2)8-13(12(3)14(10)15)18-19-7-6-16-9-19;;;/h4-5,8-9,18H,6-7H2,1-3H3;2*1H;1H2
